US07517994B2
Step F: Preparation of 4-(2-fluoro-4-(methylthio)phenylamino)-N-(2-hydroxyethoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxamide:
The title compound was prepared in 78% yield (2 steps) by the procedures described in Example 166 (steps I and J) using ethyl 4-(2-fluoro-4-(methylthio)phenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylate (50 mg, 0.14 mmol) and O-(2-vinyloxy-ethyl)-hydroxylamine (44 mg, 0.43 mmol). MS APCI (−) m/z 381 (M−1) detected; 1H NMR (400 MHz, CD3OD) δ 7.10 (dd, 1H), 7.03 (dd, 1H), 6.87 (t, 1H), 3.99 (t, 2H), 3.79 (s, 3H), 3.74 (t, 2H), 2.47 (s, 3H), 1.74 (s, 3H).

reactant | ethyl 4-(2-fluoro-4-(methylthio)phenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxylate | 0.14 mmol, 50 mg | FC1=C(C=CC(=C1)SC)NC=1C(=NN(C(C1C)=O)C)C(=O)OCC | C16H18FN3O3S
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.43 mmol, 44 mg | C(=C)OCCON | C4H9NO2
product | 4-(2-fluoro-4-(methylthio)phenylamino)-N-(2-hydroxyethoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridazine-3-carboxamide | 78% yield | FC1=C(C=CC(=C1)SC)NC=1C(=NN(C(C1C)=O)C)C(=O)NOCCO | C16H19FN4O4S
